US06998497B2
Barium Bis-triflimide
1.0 g of Barium(II) carbonate was suspended in 50 mL of water, to which freshly prepared HNTf2 (2.8 g) was added and stirred at room temperature for 24 hours. The reaction mixture was filtered and the filtrate was concentrated on a rotary evaporator and dried under vacuum (1 mmHg) for 4 hours at 150° C. The unpurified barium(II) bis-triflimide was found to display some catalytic activity in Friedel-Crafts reactions, and was more active than the calcium and strontium analogues.

reactant | Barium(II) carbonate | 1.0 g | C([O-])([O-])=O.[Ba+2]
reactant | HNTf2 | 2.8 g | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2HF6NO4S2
solvent | water | 50 mL | O | H2O
product | Barium Bis-triflimide | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Ba] | InChI=1S/2C2HF6NO4S2.Ba/c2*3-1(4,5)14(10,11)9-15(12,13)2(6,7)8;/h2*9H;
